US06346633B1
Sodium hydrosulphite (Na2S2O4, 26 g) was added portionwise to a stirred solution of 2,3-dimethoxy-1,4-benzoquinone (J. Med. Chem., 1971, 14, 45; 5 g) in a mixture of methanol (50 ml) and water (100 ml). The resultant mixture was stirred at ambient temperature for 1 hour. The mixture was partitioned between ethyl acetate and water. The organic phase was dried (MgSO4) and evaporated to give 2,3-dimethoxyhydroquinone (2 g); NMR Spectrum: (CD3SOCD3) 3.71 (s, 6H), 6.37 (s, 2H), 8.47 (s, 2H).

reactant | Sodium hydrosulphite | 26 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 2,3-dimethoxy-1,4-benzoquinone | 5 g | COC=1C(C=CC(C1OC)=O)=O | C8H8O4
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 2,3-dimethoxyhydroquinone | 2 g | COC1=C(O)C=CC(=C1OC)O | C8H10O4
